US08013008B2
(2S,3S)-2-methyl-3-(trifluoromethyl)pyrrolidin-3-ol 0.5 oxalate
By an operation in the same manner as in Reference Example 4 and using benzyl (2S,3S)-3-hydroxy-2-methyl-3-(trifluoromethyl)pyrrolidine-1-carboxylate (1.05 g) and 50% water containing-10% Pd/C (0.05 g), the title compound was obtained as a colorless solid (yield: 0.65 g, yield: 88%).

reactant | benzyl (2S,3S)-3-hydroxy-2-methyl-3-(trifluoromethyl)pyrrolidine-1-carboxylate | 1.05 g | O[C@@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)C(F)(F)F | C14H16F3NO3
catalyst | Pd/C | 0.05 g | [Pd] | Pd
solvent | water | O | H2O
product | (2S,3S)-2-methyl-3-(trifluoromethyl)pyrrolidin-3-ol | C[C@@H]1NCC[C@@]1(O)C(F)(F)F | C6H10F3NO
